US06342765B1
tert-Butyl (2S)-2-{5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethy)benzoylamino}-4-methylsulfonylbutyrate
A mixture of 5-[(1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy)]-2-(4-fluorophenethyl)benzoic acid (800 mg, 1.79 mmol), tert-butyl (2S)-2-amino-4-(methylsulfonyl)butanoate (L-methionine sulphone tert-butyl ester) (630 mg, 2.68 mmol), and DMAP (870 mg, 7.1 mmol), was treated with EDC.HCl (510 mg, 2.7 mmol) was stirred at ambient temperature for 16 hours. The reaction mixture was washed with aqueous citirc acid (1M, 2×), brine, dried (MgSO4) and evaporated to dryness. The residue was purified by chromatography on silica (40 gm Dynamax column, gradient elution 2-10% methanol/dichloromethane) to give a gum which, when triturated with diethyl ether/iso-hexane, gave the title compound as a cream solid (889 mg, 74%).

reactant | 5-[(1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy)]-2-(4-fluorophenethyl)benzoic acid | 1.79 mmol, 800 mg | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)O)C1)CCC1=CC=C(C=C1)F | C26H22F2N2O3
reactant | tert-butyl (2S)-2-amino-4-(methylsulfonyl)butanoate | 2.68 mmol, 630 mg | N[C@H](C(=O)OC(C)(C)C)CCS(=O)(=O)C | C9H19NO4S
reactant | EDC.HCl | 2.7 mmol, 510 mg | CCN=C=NCCCN(C)C.Cl
catalyst | DMAP | 7.1 mmol, 870 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl (2S)-2-{5-[1-(4-fluorophenyl)-2-(imidazol-1-yl)ethoxy]-2-(4-fluorophenethy)benzoylamino}-4-methylsulfonylbutyrate | 889 mg, 74% | FC1=CC=C(C=C1)C(CN1C=NC=C1)OC=1C=CC(=C(C(=O)N[C@H](C(=O)OC(C)(C)C)CCS(=O)(=O)C)C1)CCC1=CC=C(C=C1)F | C35H39F2N3O6S
